**************************************************
* Manufacturer:       Wurth Elektronik
* Kinds:     Signal LEDs
* Matchcode:          WL-SMCD SMT Mono-Color Chip LED Diffused
* Library Type:       LTspice
* Version:        rev19a       
* Date and Time   :       2019-03-14
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 0603_150060SS55040 1 2
D1 1 2 smcd
.MODEL smcd D
+ IS=14.813E-12
+ N=3.6097
+ RS=2.1532
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*****************************
.subckt 0603_150060RS55040 1 2
D1 1 2 smcd
.MODEL smcd D
+ IS=127.76E-18
+ N=2.2515
+ RS=.94712
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*****************************
.subckt 0603_150060YS55040 1 2
D1 1 2 smcd
.MODEL smcd D
+ IS=10.000E-21
+ N=1.8115
+ RS=.66325
+ IKF=39.932
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*****************************
.subckt 0603_150060VS55040 1 2
D1 1 2 smcd
.MODEL smcd D
+ IS=128.02E-21
+ N=1.9603
+ RS=.15606
+ IKF=12.357E-3
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*****************************
.subckt 0603_150060GS55040 1 2
D1 1 2 smcd
.MODEL smcd D
+ IS=1.0731E-12
+ N=4.9950
+ RS=8.2952
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*****************************
.subckt 0603_150060BS55040 1 2
D1 1 2 smcd
.MODEL smcd D
+ IS=1.7492E-12
+ N=4.9950
+ RS=6.2777
+ IKF=999
+ CJO=1.0000E-12
+ M=.3333
+ VJ=.75
+ BV=5
+ IBV=100.00E-6
.ends
*****************************